US08048887B2
2-(4-Fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide
To a mixture of 2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylic acid (1 g, 3.7 mmol, 1 eq), methylamine in THF (2 M solution) (0.689 g, 21.5 mmol, 1 eq), HOBT (0.83 g, 6.2 mmol, 1.7 eq), EDC.HCl (1.24 g, 6.6 mmol, 1.8 eq) in DMF at ambient temperature under nitrogen was added Diisopropyl ethylamine (2.32 g, 18.5 mmol, 3.0 eq). The clear mixture was stirred at ambient temperature for 12 h. The LCMS indicated the desired product. The mixture was concentrated cooled in an ice-water bath, further diluted with water. The white solid was filtered and washed with water and dried in vacuum. Yield: 0.85 g (90%). 1H NMR (400 MHz, DMSO-d6): δ 2.81-2.82 (d, 3H, J=4.5 Hz), 6.80-6.83 (m, 1H), 6.94-6.95 (d, 1H, J=2.3 Hz), 7.34-7.38 (t, 2H, J=8.7 Hz), 7.44-7.47 (d, 1H, J=8.8 Hz), 7.90-7.93 (m, 2H), 8.39-8.40 (d, 1H, J=4.4 Hz), 9.3 (s, 1H). LCMS: (ES+) m/z=286.1 (M+H).

reactant | 2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylic acid | 3.7 mmol, 1 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C=C2)O | C15H9FO4
reactant | methylamine | CN | CH5N
reactant | THF | 21.5 mmol, 2 M, 0.689 g, 1 eq | C1CCOC1 | C4H8O
reactant | HOBT | 6.2 mmol, 0.83 g, 1.7 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 6.6 mmol, 1.24 g, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | Diisopropyl ethylamine | 18.5 mmol, 2.32 g, 3.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)O | C16H12FNO3
